US04342875
1,1,1-Trimethylolethane Tris(3,4-dimethoxybenzoate)
Following the procedure of Example I, 3,4-dimethoxybenzoyl chloride was allowed to react with 1,1,1-trimethylolethane in the molar ratio of 3:1. The product was obtained in 90% yield as a glassy substance which slowly crystallized after being precipitated from methanol at dry-ice temperature. The triester is a white crystalline material, mp 105°-106° C., with an ester carbonyl band at 5.85μ. The proton magnetic resonance spectrum was consistent with the title compound.

reactant | 3,4-dimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | 1,1,1-trimethylolethane | C(O)C(C)(CO)CO | C5H12O3
product | 1,1,1-Trimethylolethane Tris(3,4-dimethoxybenzoate) | 90% yield | COC=1C=C(C(=O)O)C=CC1OC.COC=1C=C(C(=O)O)C=CC1OC.COC=1C=C(C(=O)O)C=CC1OC.C(O)C(C)(CO)CO | InChI=1S/3C9H10O4.C5H12O3/c3*1-12-7-4-3-6(9(10)11)5-8(7)13-2;1-5(2-6,3-7)4-8/h3*3-5H,1-2H3,(H,10,11);6-8H,2-4H2,1H3
